* Fully differential NMOS-input telescopic cascode opamp
Vsup VDD 0 DC 5
Vvinp Vinp 0 DC 2.5
Vvinn Vinn 0 DC 2.5
Vb1 Vbias1 0 DC 1.2
Vb2 Vbias2 0 DC 3.0
Vb3 Vbias3 0 DC 2.0
Vb4 Vbias4 0 DC 4.0

M5 tail Vbias1 0 0 NMOS W=50u L=1u
M1 nleft Vinp tail tail NMOS W=50u L=1u
M2 nright Vinn tail tail NMOS W=50u L=1u
M6 Voutp Vbias2 nleft nleft NMOS W=50u L=1u
M7 Vout Vbias2 nright nright NMOS W=50u L=1u

M3 pleft Vbias4 VDD VDD PMOS W=100u L=1u
M4 pright Vbias4 VDD VDD PMOS W=100u L=1u
M8 Voutp Vbias3 pleft pleft PMOS W=100u L=1u
M9 Vout Vbias3 pright pright PMOS W=100u L=1u

.model NMOS NMOS (VTO=0.7 KP=100u LAMBDA=0.02)
.model PMOS PMOS (VTO=-0.7 KP=50u LAMBDA=0.02)

.op
.end
